US09145441B2
Compound 108b: (S)-1-[(S)-2-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-3-pyrazol-1-yl-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
To (S)-1-((S)-2-tert-butoxycarbonylamino-3-pyrazol-1-yl-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (730 mg, 1.47 mmol) in anhydrous dichloromethane (3 mL) at 0° C. and under an atmosphere of nitrogen was added trifluoroacetic acid (1.1 mL, 14.7 mmol). The reaction mixture was warmed to room temperature and stirred for 3 h before concentrating in vacuo. The residue was dissolved in anhydrous acetonitrile (7 mL) at room temperature and under an atmosphere of nitrogen was added N,N-diisopropylethylamine (1.3 mL, 7.3 mmol), N-(tert-Butoxycarbonyl)-L-valine (319 mg, 1.5 mmol) and 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (782 mg, 2.1 mmol). Following 16 h at room temperature the reaction was cooled to 0° C., diluted with ethyl acetate and quenched with 1 M hydrochloric acid. The organic layer was separated and washed with a saturated aqueous solution of sodium bicarbonate (2×) and brine (1×). The organic layer was then dried through a hydrophobic frit and concentrated in vacuo. The residue was purified by silica gel chromatography using iso-hexanes/ethyl acetate 1:2 then 1:3 to give the title compound (460 mg, 52%) as a viscous clear oil, as a 2:1 mixture of diastereoisomers. LCMS (m/z) 599.1 [M+H], Tr=2.83 min.

reactant | (S)-1-((S)-2-tert-butoxycarbonylamino-3-pyrazol-1-yl-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 1.47 mmol, 730 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](CN1N=CC=C1)NC(=O)OC(C)(C)C)=O)(Cl)Cl | C18H26Cl3N5O5
reactant | trifluoroacetic acid | 14.7 mmol, 1.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N,N-diisopropylethylamine | 7.3 mmol, 1.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(tert-Butoxycarbonyl)-L-valine | 1.5 mmol, 319 mg | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 2.1 mmol, 782 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-[(S)-2-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-3-pyrazol-1-yl-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 460 mg, 52% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](CN1N=CC=C1)NC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C23H35Cl3N6O6
